US07122580B2
5-Bromo-2-heptyloxy-benzoic acid (0.231 g, 0.738 mmol) and the (2S)-amino-3-(2′-hydroxy-biphenyl-4-yl)-propionic acid methyl ester (0.200 g, 0.738 mmol) were then combined as per general procedure A with HBTU (0.335 g, 0.885 mmol) and diisopropylethylamine (0.285 g, 2.21 mmol) to yield the (2S)-(5-bromo-2-heptyloxy-benzoylamino)-3-(2′-hydroxy-biphenyl-4-yl)-propionic acid methyl ester (0.200 g, 50%).

reactant | 5-Bromo-2-heptyloxy-benzoic acid | 0.738 mmol, 0.231 g | BrC=1C=CC(=C(C(=O)O)C1)OCCCCCCC | C14H19BrO3
reactant | (2S)-amino-3-(2′-hydroxy-biphenyl-4-yl)-propionic acid methyl ester | 0.738 mmol, 0.200 g | COC([C@H](CC1=CC=C(C=C1)C1=C(C=CC=C1)O)N)=O | C16H17NO3
reactant | HBTU | 0.885 mmol, 0.335 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 2.21 mmol, 0.285 g | C(C)(C)N(CC)C(C)C | C8H19N
product | (2S)-(5-bromo-2-heptyloxy-benzoylamino)-3-(2′-hydroxy-biphenyl-4-yl)-propionic acid methyl ester | 0.200 g, 50% | COC([C@H](CC1=CC=C(C=C1)C1=C(C=CC=C1)O)NC(C1=C(C=CC(=C1)Br)OCCCCCCC)=O)=O | C30H34BrNO5
